US03975383
1-(1-Hydroxy-1 -t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidin- 2-one (646mg) was dissolved in dry THF/dioxan (1:1, 12ml) and the solution, under nitrogen, was cooled to -15°. Dry pyridine (227mg) in dioxan (1ml) was then added followed by the dropwise addition of thionyl chloride (357mg) in 1:1 tetrahydrofuran/dioxan (5ml) over 1-2 minutes. After a further 15 minutes the precipitated solid was filtered off and the filtrate evaporated to dryness. Dry toluene was added and the solution decanted from any solid, and evaporated to give 1-(1-chloro-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidine-2-one as an amorphous solid (650mg) after drying overnight in vacuo.

reactant | 1-(1-Hydroxy-1 -t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidin- 2-one | 646mg | OC(C(=O)OC(C)(C)C)N1C(C(C1SCC#CCOC1OCCCC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H42N2O6S
reactant | pyridine | 227mg | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 357mg | S(=O)(Cl)Cl | Cl2OS
solvent | THF dioxan | 12ml | C1CCOC1.O1CCOCC1
solvent | dioxan | 1ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran dioxan | 5ml | O1CCCC1.O1CCOCC1
product | 1-(1-chloro-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidine-2-one | 650mg | ClC(C(=O)OC(C)(C)C)N1C(C(C1SCC#CCOC1OCCCC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H41ClN2O5S
